US07476666B2
Step 4: 3-Benzyloxy-4-oxo-5,6,7,8-tetrahydro-4H-pyrazolo[1,5-a][1,4]diazepine-2-carboxylic acid
To a solution of methyl 3-benzyloxy-4-oxo-5,6,7,8-tetrahydro-4H-pyrazolo[1,5-a][1,4]diazepine-2-carboxylate (50 mg, 0.159 mmol) in MeOH (2 mL) was added aqueous 1M NaOH (159 μL, 0.159 mmol). The reaction was stirred at room temperature for 4 hours, treated with additional aqueous 1N NaOH (159 μL, 0.159 mmol), and stirred at room temperature overnight. Aqueous 1N HCl (318 μL, 0.318 mmol) was added to the solution, and the solvents were removed in vacuo to afford the title product. 1H NMR (400 MHz, CD3OD) δ 7.39-7.36 (m, 2H), 7.32-7.28 (m, 3H), 5.24 (s, 3H), 4.38-4.34 (t, 2H), 2.90-2.86 (t, 2H), 2.13-2.06 (dt, 2H); ES MS (M+1)=302.

reactant | methyl 3-benzyloxy-4-oxo-5,6,7,8-tetrahydro-4H-pyrazolo[1,5-a][1,4]diazepine-2-carboxylate | 0.159 mmol, 50 mg | C(C1=CC=CC=C1)OC=1C(=NN2C1C(NCCC2)=O)C(=O)OC | C16H17N3O4
reactant | NaOH | 0.159 mmol, 1M, 159 μL | [OH-].[Na+]
reactant | NaOH | 0.159 mmol, 1N, 159 μL | [OH-].[Na+]
reactant | HCl | 0.318 mmol, 1N, 318 μL | Cl | ClH
solvent | MeOH | 2 mL | CO | CH4O
product | 3-Benzyloxy-4-oxo-5,6,7,8-tetrahydro-4H-pyrazolo[1,5-a][1,4]diazepine-2-carboxylic acid | C(C1=CC=CC=C1)OC=1C(=NN2C1C(NCCC2)=O)C(=O)O | C15H15N3O4
